### PR TITLE
[Merged by Bors] - feat: off-diagonal entries of Cartan matrices belong to `{-3, -2, -1, 0}`

### PR DESCRIPTION
**Pull request by ScottCarnahan**
Given a finite crystallographic root pairing with base over a characteristic zero ring, the off-diagonal Cartan matrix entries belong to `{-3, -2, -1, 0}`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by ocfnash** [comment]
Exciting to have you back on the Root System project Scott :) I will review tomorrow!

File: Mathlib/LinearAlgebra/RootSystem/CartanMatrix.lean [hunk 1]
```diff
@@ -65,6 +65,34 @@ lemma cartanMatrix_le_zero_of_ne [Finite ι] [NoZeroDivisors R]
...
+  · refine (not_linearIndependent_iff.mpr ?_) b.linInd_root
+    use ⟨{i, j}, (by aesop)⟩
+    use indicator {i} 1 + indicator {j} 2
+    simp [(P.pairingIn_neg_one_neg_four_iff ℤ j i).mp
+      ⟨(Prod.mk_inj.mp (Int.neg_four_neg_one_iff.mpr ⟨hcW, h4⟩)).2, h4⟩, hne, hne.symm]
+  · have hijlt : P.pairingIn ℤ i j < -4 := lt_of_le_of_ne h h4
+    have hjilt : P.pairingIn ℤ j i < 0 := by
+      refine lt_of_le_of_ne ?_ hnji
+      simpa [cartanMatrix, cartanMatrixIn_def] using (cartanMatrix_le_zero_of_ne b j i hne.symm)
+    nlinarith
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/RootSystem/CartanMatrix.lean:94]: Given what we already have, I think we might as well prove a bit more instead:
```suggestion
lemma cartanMatrix_mem_of_ne [Finite ι] [NoZeroDivisors R]
    [NoZeroSMulDivisors R M] [NoZeroSMulDivisors R N]
    (i j : b.support) (hij : i ≠ j) :
    b.cartanMatrix i j ∈ ({-3, -2, -1, 0} : Set ℤ) := by
  simp only [cartanMatrix, cartanMatrixIn_def]
  have h₁ := P.pairingIn_pairingIn_mem_set_of_isCrystallographic i j
  have h₂ : P.pairingIn ℤ i j ≤ 0 := b.cartanMatrix_le_zero_of_ne i j hij
  suffices P.pairingIn ℤ i j ≠ -4 by aesop
  by_contra contra
  replace contra : P.pairingIn ℤ j i = -1 ∧ P.pairingIn ℤ i j = -4 := ⟨by aesop, contra⟩
  rw [pairingIn_neg_one_neg_four_iff] at contra
  refine (not_linearIndependent_iff.mpr ?_) b.linInd_root
  refine ⟨⟨{i, j}, by simpa⟩, Finsupp.single i (1 : R) + Finsupp.single j (2 : R), ?_⟩
  simp [contra, hij, hij.symm]
```

**Comment by ocfnash** [comment]
bors merge
